US08461372B2
To a mixture of 2-benzyloxycarbonylamino-3-(4-nitro-phenyl)-propionic acid (400 g), potassium carbonate (192.5 g) in NMP (1460 ml) maintained at 20° C., was added dropwise 1-Bromo octadecane (425 g). The reaction mixture was allowed to slowly come to room temperature and further stirred for 24 hours. The reaction mixture was then poured onto ice water and the pH was adjusted to 7 with dilute HCl. The solid was filtered, dried and purified by column chromatography using hexane:ethyl acetate (95:5) as an eluant to yield pure 2-benzyloxycarbonylamino-3-(4-nitro-phenyl)-propionic acid stearyl ester (430 g) as a white powder with a melting point of 56-59° C. The product was further characterized by IH NMR (CDCl3) δ 0.90 (t, 3H, CH3), 1.30 (m, 30H, 15X CH2), 1.60 (m, 2H, CH2), 3.05-3.25 (m, 2H, CH2), 4.20 (m, 2H, CH2), 4.65 (m, 1H, CH), 5.15 (m, 2H, CH2), 5.40 (d, 1H, NH), 7.30 (m, 54H, Ar), 7.45 (d, 2H, Ar), 8.15 (d, 2H, Ar)

reactant | 2-benzyloxycarbonylamino-3-(4-nitro-phenyl)-propionic acid | 400 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)CC1=CC=C(C=C1)[N+](=O)[O-] | C17H16N2O6
reactant | potassium carbonate | 192.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-Bromo octadecane | 425 g | BrCCCCCCCCCCCCCCCCCC | C18H37Br
reactant | HCl | Cl | ClH
solvent | NMP | 1460 ml | CN1CCCC1=O | C5H9NO
product | 2-benzyloxycarbonylamino-3-(4-nitro-phenyl)-propionic acid stearyl ester | 430 g | C(CCCCCCCCCCCCCCCCC)OC(C(CC1=CC=C(C=C1)[N+](=O)[O-])NC(=O)OCC1=CC=CC=C1)=O | C35H52N2O6
